US04278670
To a suspension of 19.3 g. (0.05 mol.) of 7-amino-3-[1-(2-carbamoylethyl)tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid in 500 ml. of dry methylene chloride is added in one portion 30.0 g. (0.15 mol.) of O-t-butyldiisopropylpseudourea in 50 ml. of methylene chloride and the mixture is stirred at ambient temperature for 24 hours. The precipitate is removed by filtration and the filtrate is evaporated to give a residue which is taken up in 200 ml. of benzene and filtured again. The filtrate is extracted with three 100 ml. portions of cold 1 N hydrochloric acid. The aqueous extracts are layered with ethyl acetate and the pH is adjusted to 7.5 by addition of solid sodium bicarbonate. The organic layer is separated and the aqueous phase is extracted with two 150 ml. portions of ethyl acetate. The combined extracts are dried (MgSO4), filtered and evaporated to dryness to give 7-amino-3-[1-(2-carbamoylethyl)tetrazol-5-ylthiomethyl]-3-cephem-4 -carboxylic acid t-butyl ester.

reactant | 7-amino-3-[1-(2-carbamoylethyl)tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid | 0.05 mol | NC1[C@@H]2N(C(=C(CS2)C(CCC(N)=O)SC2=NN=NN2)C(=O)O)C1=O | C12H15N7O4S2
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | O-t-butyldiisopropylpseudourea | 0.15 mol | C(C)(C)(C)OC(N(C(C)C)C(C)C)=N | C11H24N2O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 7-amino-3-[1-(2-carbamoylethyl)tetrazol-5-ylthiomethyl]-3-cephem-4 -carboxylic acid t-butyl ester | C(C)(C)(C)OC(=O)C1=C(CS[C@H]2N1C(C2N)=O)C(CCC(N)=O)SC2=NN=NN2 | C16H23N7O4S2
